US07790714B2
(S)-2-({(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride (74 mg, LC/MS: m/z 751) was prepared from (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester (150 mg) and (S)-2-Amino-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride according to general procedures A and C.

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H28Cl2N2O7
reactant | (S)-2-Amino-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C)N)=O
product | (S)-2-({(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 74 mg | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C)NC(=O)C1NCC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C42H37Cl2N3O6.ClH/c1-24-3-8-27(9-4-24)28-10-5-25(6-11-28)18-37(42(50)51-2)47-40(48)36-20-30-19-35-38(21-31(30)22-45-36)53-39(41(49)46-35)29-12-14-32(15-13-29)52-23-26-7-16-33(43)34(44)17-26;/h3-17,19,21,36-37,39,45H,18,20,22-23H2,1-2H3,(H,46,49)(H,47,48);1H/t36?,37-,39-;/m0./s1
